US04307116
A mixture of methyl N-(2,2-dimethyl-dioxolan-4-yl-methyl)-dithiocarbamate (23,6 g) prepared according to U.S. Pat. No. 4,064,242, absolute ethanol (500 cc) and hydrazine hydrate (5.6 g) is heated under reflux for 2 hours 30 minutes. It is then concentrated to dryness at 20° C. under 20 mm Hg (2.7 kPa) and the residue is taken up in diethyl ether (100 cc). After filtration and drying, 4-(2,2-dimethyl-dioxolan-4-yl-methyl)-thiosemicarbazide (15.2 g) is obtained in the form of a cream-coloured solid melting at 145° C.

reactant | methyl N-(2,2-dimethyl-dioxolan-4-yl-methyl)-dithiocarbamate | 23,6 g | CC1(OCC(O1)CNC(SC)=S)C | C8H15NO2S2
reactant | hydrazine hydrate | 5.6 g | O.NN
solvent | ethanol | 500 cc | C(C)O | C2H6O
product | 4-(2,2-dimethyl-dioxolan-4-yl-methyl)-thiosemicarbazide | 15.2 g | CC1(OCC(O1)CNC(NN)=S)C | C7H15N3O2S
